US04587342
2,4-Diamino-5-(7,8-dimethoxy-2H-1-benzopyran-5-ylmethyl)pyrimidine (3.35 g, 10.6 mmol) and potassium t-butoxide (2.5 g) were warmed in dimethyl sulfoxide (25 mL) at 80° for 1.5 hr. The mixture was diluted with water and filtered. Two fractional crystallizations from 10% acetic acid gave 92% pure 2,4-diamino-5-(7,8-dimethoxy-4H-1-benzopyran-5-ylmethyl)pyrimidine acetate (0.62 g, 18%). The NMR was consistent with the structure with an 8% impurity of 2,4-diamino-5-(7,8-dimethoxy-2H-1-benzopyran-5-ylmethyl)-pyrimdine acetate. Anal. calcd for C16H18N4O3.C2H4O2 : C, 57.75; H, 5.92; N, 14.96. Found: C, 57.68; H, 5.93; N, 14.96.

reactant | 2,4-Diamino-5-(7,8-dimethoxy-2H-1-benzopyran-5-ylmethyl)pyrimidine | 10.6 mmol, 3.35 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1C=CCO2)OC)OC | C16H18N4O3
reactant | potassium t-butoxide | 2.5 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2,4-diamino-5-(7,8-dimethoxy-4H-1-benzopyran-5-ylmethyl)pyrimidine acetate | 0.62 g | C(C)(=O)O.NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1CC=CO2)OC)OC | InChI=1S/C16H18N4O3.C2H4O2/c1-21-12-7-9(6-10-8-19-16(18)20-15(10)17)11-4-3-5-23-13(11)14(12)22-2;1-2(3)4/h3,5,7-8H,4,6H2,1-2H3,(H4,17,18,19,20);1H3,(H,3,4)
